US07592358B2
25.1b. 4-(6-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridin-3-yl)benzaldehyde
The product was obtained analogously to Example 1.1e starting from 5-bromo-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridine and 4-formylphenylboric acid. Yield: 0.20 g (47% of theoretical); C28H28N2O2 (M=424.534); calc.: molpeak (M+H)+425; found: molpeak (M+H)+: 425; Rf value: 0.40 (silica gel, DCM/MeOH 9:1).

reactant | 5-bromo-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridine | BrC=1C=CC(=NC1)C#CC1=CC=C(C=C1)OCCN1CCC(CC1)C | C21H23BrN2O
reactant | 4-formylphenylboric acid | C(=O)C1=CC=C(C=C1)OB(O)O | C7H7BO4
solvent | DCM MeOH | C(Cl)Cl.CO
product | 4-(6-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridin-3-yl)benzaldehyde | CC1CCN(CC1)CCOC1=CC=C(C=C1)C#CC1=CC=C(C=N1)C1=CC=C(C=O)C=C1 | C28H28N2O2
